US06075145
1-(p-Chlorophenyl)ethanol (Meerwein-Ponndorf-Verley reduction)
In a round-bottomed flask provided with magnetic stirrer and reflux condenser or in a 100 ml autoclave, 5.0 g (32.3 mmol) of p-chloroacetophenone, 45 g of isopropyl alcohol and 1.0 g of catalyst were heated under reflux or at 120° C. After the end of the reaction time, the reaction mixture was analyzed by gas chromatography and the yield was determined. The results are summarized in Table 3 below:

reactant | p-chloroacetophenone | 32.3 mmol, 5.0 g | ClC1=CC=C(C=C1)C(C)=O | C8H7ClO
solvent | isopropyl alcohol | 45 g | C(C)(C)O | C3H8O
product | 1-(p-Chlorophenyl)ethanol | ClC1=CC=C(C=C1)C(C)O | C8H9ClO
